US04346218
One dissolves p-nitrobenzyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-hydroxyethylidene)acetate (827 mg) in methylene chloride (10 ml), cools to -20° C., adds a solution of methanesulfonyl chloride (1 M in methylene chloride; 2.2 ml) and a solution of triethylamine (1 M in methylene chloride; 2.2 ml), stirs for 90 minutes, cools to -25° C., adds morpholine (0.35 ml), stirs for 65 minutes, adds N-bromosuccinimide (340 mg), and stirs for 1 hour. One washes the reaction mixture with water, dries over magnesium sulfate, and evaporates. Purification of the obtained residue by chromatography over silica gel containing 10% water (30 g) gives p-nitrobenzyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-morpholino-2-bromoethylidene)acetate (710 mg). Yield: 65%.

reactant | p-nitrobenzyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-hydroxyethylidene)acetate | 827 mg | C(C1=CC=CC=C1)C1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)O)=O | C22H19N3O6S
reactant | methanesulfonyl chloride | 1 M, 2.2 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | morpholine | 0.35 ml | N1CCOCC1 | C4H9NO
reactant | N-bromosuccinimide | 340 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | triethylamine | 1 M, 2.2 ml | C(C)N(CC)CC | C6H15N
product | p-nitrobenzyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-morpholino-2-bromoethylidene)acetate | 710 mg, Yield: 65% | C(C1=CC=CC=C1)C1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(CBr)N1CCOCC1)=O | C26H25BrN4O6S
